US07067517B2
4-Methylpiperazine-1-carboxylic acid 4-chlorophenyl ester
The hydrochloride of the title compound was prepared from 4-chlorophenyl chloroformate and 1-methylpiperazine, yield 81%. White crystals, m.p. 237–240° C.; 1H NMR (DMSO-d6): δ 11.67 (br s, 1H), 7.50, 7.45, 7.24, 7.20 (AB-system, d=7.47 and 7.22; J=8.84 Hz, 4H), 4.40–3.91 (br, 2H, 3.77–2.92 (br m, 6H+water), 2.77 (s, 3H); IR (KBr): ν 1717 (C═O) cm−1.

reactant | 4-chlorophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)Cl | C7H4Cl2O2
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | KBr | [K+].[Br-]
solvent | water | O | H2O
product | 4-Methylpiperazine-1-carboxylic acid 4-chlorophenyl ester | ClC1=CC=C(C=C1)OC(=O)N1CCN(CC1)C | C12H15ClN2O2
